US07851473B2
(1) 1-(3-Pyridin-2-yl-1,2,4-thiadiazol-5-yl)piperazine
tert-Butyl 4-(3-pyridin-2-yl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxylate (6.35 g, 17.0 mmol) was dissolved in tetrahydrofuran (100 ml), and a solution of 4 N hydrogen chloride in ethyl acetate (50 ml) was added thereto, followed by stirring at room temperature for 5 hours. Hexane (250 ml) was poured to the reaction mixture, and a solid was separated by filtration. The obtained solid was dissolved in an aqueous saturated sodium hydrogen carbonate solution, followed by stirring at room temperature for 2 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with a mixed solution of ethyl acetate/tetrahydrofuran (1:1). The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Hexane was added to the residue, and 2.79 g (67.0%) of the desired product as a solid was separated by filtration.

reactant | tert-Butyl 4-(3-pyridin-2-yl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxylate | 17.0 mmol, 6.35 g | N1=C(C=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H21N5O2S
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | Hexane | 250 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-Pyridin-2-yl-1,2,4-thiadiazol-5-yl)piperazine | N1=C(C=CC=C1)C1=NSC(=N1)N1CCNCC1 | C11H13N5S
